US08309718B2
Step 3: tert-butyl 4-(3-cyano-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propyl)piperidine-1-carboxylate
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.28 g, 6.60 mmol) in acetonitrile (33.0 mL) was added tert-butyl 4-(3-cyanoprop-2-en-1-yl)piperidine-1-carboxylate (3.30 g, 13.2 mmol), followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (0.987 mL, 6.60 mmol). The resulting mixture was stirred at room temperature overnight. After evaporating the reaction mixture to dryness, the residue was purified on silica gel, eluting with 0-50% EtOAc in hexanes, to give the desired product (2.35 g, 80%). LCMS (M+H) 445.2

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 6.60 mmol, 1.28 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | tert-butyl 4-(3-cyanoprop-2-en-1-yl)piperidine-1-carboxylate | 13.2 mmol, 3.30 g | C(#N)C=CCC1CCN(CC1)C(=O)OC(C)(C)C | C14H22N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 6.60 mmol, 0.987 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 33.0 mL | C(C)#N | C2H3N
product | tert-butyl 4-(3-cyano-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propyl)piperidine-1-carboxylate | 2.35 g, 80% | C(#N)CC(CC1CCN(CC1)C(=O)OC(C)(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C23H37BN4O4
